US05603919
Preparation of VP/VCL/DMAPMA/t-Octyl Acrylamide Tetramer (wt. %--8.0/83.2/6.1/2.6)
Vinyl pyrrolidone (VP) (55.6 g), vinyl caprolactam (VCL) (577.5 g), dimethylaminopropyl methacrylamide (DMAPMA) (42.6 g), tert-octyl acrylamide (18.3 g) and ethanol (848.2 g) were charged into a 2-liter water-jacketed resin flask. The reaction flask was equipped with a condenser, a thermometer, a septum (for catalyst addition), an anchor-type metal stirrer, and a nitrogen sparge tube. Nitrogen was bubbled the solution while the resin flask was heated to 68° C. using hot water circulating through the jacketed flask. After an additional half-hour of degassing at reflex, a first shot of Lupersol 11 (0.25 ml) was injected into the flask. Subsequently, Lupersol 11 additions were made at 10, 40, 70, 100 minutes after the first addition. The reaction temperature was increased to 74° C. and 2 shots of Lupersol 554 M75 (0.12 ml) was then added at 240 and 330 minutes. The contents were allowed to react for an additional 5 hours and cooled to 35°-40° C. After neutralization with 12.5 g of H2SO4 (conc) the product was discharged as a 45% solution in ethanol.

reactant | Vinyl pyrrolidone | 55.6 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | vinyl caprolactam | 577.5 g | C(=C)C1C(=O)NCCCC1 | C8H13NO
reactant | dimethylaminopropyl methacrylamide | 42.6 g | CN(C)CCCC=C(C(=O)N)C | C9H18N2O
reactant | tert-octyl acrylamide | 18.3 g | C(C)(C)(CC(C)(C)C)C(C(=O)N)=C | C11H21NO
reactant | H2SO4 | 12.5 g | OS(=O)(=O)O | H2O4S
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 848.2 g | C(C)O | C2H6O
product | DMAPMA t-Octyl Acrylamide | CC(=C)C(=O)NCCCN(C)C.C(C)(C)(CC(C)(C)C)C(C(=O)N)=C | InChI=1S/C11H21NO.C9H18N2O/c1-8(9(12)13)11(5,6)7-10(2,3)4;1-8(2)9(12)10-6-5-7-11(3)4/h1,7H2,2-6H3,(H2,12,13);1,5-7H2,2-4H3,(H,10,12)
